US04767768
Ethyl (E,E)-4-ethyl-2,4-hexadienoate (134 g) was dissolved in methanol (200 ml) and 1N aqueous sodium hydroxide (880 ml) was added to the solution. The resulting mixture was stirred at room temperature for 20 hours under nitrogen atmosphere. After removal of methanol, the residual aqueous solution was washed with ether. The aqueous layer was acidified with conc. hydrochloric acid and then extracted with three portions of ethyl acetate (500 ml×3). The combined extracts were washed with brine, dried over magnesium sulfate and then evaporated to dryness to give a white powder which was crystallized from ether to give (E,E)-4-ethyl-2,4-hexadienoic acid (108 g).

reactant | Ethyl (E,E)-4-ethyl-2,4-hexadienoate | 134 g | C(C)/C(/C=C/C(=O)OCC)=C\C | C10H16O2
reactant | sodium hydroxide | 1N, 880 ml | [OH-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | (E,E)-4-ethyl-2,4-hexadienoic acid | 108 g | C(C)/C(/C=C/C(=O)O)=C\C | C8H12O2
